US04181800
Methyl 2-(4-formyl-2-oxo-3-phthalimido-1-azetidinyl)-2-phenylacetate (390 mg.) and O-benzyl hydroxylamine (170 mg.) were dissolved in dried benzene (10 ml), and the solution was stirred at ambient temperature for 4 hours and then heated at 50° to 60° C. for an hour. The reaction mixture was washed with 1% hydrochloric acid (10 ml.), water and an aqueous sodium chloride and then dried over magnesium sulfate. The solution was evaporated to dryness under reduced pressure to give a residue (560 mg.), which was subjected to column chromatography on silica gel (15 g.). Elution was carried out with chloroform and the fractions containing a desired compound were collected. The solution was removed by distillation from the solution under reduced pressure to give methyl 2-(4-benzyloxyimino-methyl-2-oxo-3-phthalimido-1-azetidinyl)-2-phenylacetate (530 mg.).

reactant | Methyl 2-(4-formyl-2-oxo-3-phthalimido-1-azetidinyl)-2-phenylacetate | 390 mg | C(=O)C1C(C(N1C(C(=O)OC)C1=CC=CC=C1)=O)N1C(C=2C(C1=O)=CC=CC2)=O | C21H16N2O6
reactant | O-benzyl hydroxylamine | 170 mg | C(C1=CC=CC=C1)ON | C7H9NO
reactant | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | methyl 2-(4-benzyloxyimino-methyl-2-oxo-3-phthalimido-1-azetidinyl)-2-phenylacetate | 530 mg | C(C1=CC=CC=C1)ON=C1C(C(N1C(C(=O)OC)C1=CC=CC=C1)=O)(N1C(C=2C(C1=O)=CC=CC2)=O)C | C28H23N3O6
